US05580872
4-Chloro-3,5-difluoro-2-picoline
4-Chloro-5-fluoro-2-picoline is treated with 1.1 equivalents of acetyl hypofluorite as described by O. Lerman, et al. J Org Chem, 49: 806-813 (1984) to afford the title compound.

reactant | 4-Chloro-5-fluoro-2-picoline | ClC1=CC(=NC=C1F)C | C6H5ClFN
reactant | acetyl hypofluorite | 1.1 equivalents | FOC(C)=O | C2H3FO2
product | 4-Chloro-3,5-difluoro-2-picoline | ClC1=C(C(=NC=C1F)C)F | C6H4ClF2N
